US04474778
To a solution of (S)-3-[[3-(benzoylamino)-2-oxo-4-phenylbutyl]amino]-hexahydro-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester (2.5 mmole) in tetrahydrofuran (25 ml.) and water (2.5 ml.) is added sodium borohydride (10.0 mmole) portionwise over a 10 minute period. After the addition is completed, the reaction mixture is stirred for 4 hours, and slowly quenched with concentrated hydrochloric acid. The mixture is diluted with ethyl acetate (50 ml.), washed with water (2×), saturated sodium bicarbonate (2×), and saturated sodium chloride (2×), dried (Na2SO4), and concentrated under reduced pressure to give (S)-3-[[3-(benzoylamino)-2-hydroxy-4-phenylbutyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester.

reactant | (S)-3-[[3-(benzoylamino)-2-oxo-4-phenylbutyl]amino]-hexahydro-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester | 2.5 mmole | C(C1=CC=CC=C1)(=O)NC(C(CN[C@@H]1C(N(CCCC1)CC(=O)OCC1=CC=CC=C1)=O)=O)CC1=CC=CC=C1 | C32H35N3O5
reactant | sodium borohydride | 10.0 mmole | [BH4-].[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 2.5 ml | O | H2O
product | (S)-3-[[3-(benzoylamino)-2-hydroxy-4-phenylbutyl]amino]hexahydro-2-oxo-1H-azepine-1-acetic acid, phenylmethyl ester | C(C1=CC=CC=C1)(=O)NC(C(CN[C@@H]1C(N(CCCC1)CC(=O)OCC1=CC=CC=C1)=O)O)CC1=CC=CC=C1 | C32H37N3O5
